US07205385B2
A sample of lysine, 1, (1 eq) is stirred in MeOH (0.03M solution) at ambient temperature. An aliquot of a solution of 9-borobicyclononane (9-BBN) (1 eq), 2, in tetrahydrofuran (THF) is introduced by syringe, and the cloudy reaction mixture is stirred under refluxing conditions (˜50° C.) over 1 hour to give a clear colorless solution. The volatile organic solvents are removed under reduced pressure to give a solid that is then redissolved in warm (˜40° C.) THF and filtered to provide a colorless solution. The solution is filtered and the volatiles are removed in vacuo to afford 9-BBN-lysine, 3, as an off white solid, which is then washed with pentanes, dried in vacuo and used without further purification.

reactant | lysine | N[C@@H](CCCCN)C(=O)O | C6H14N2O2
reactant | 9-BBN | B1C2CCCC1CCC2 | C8H15B
solvent | MeOH | 0.03M | CO | CH4O
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 9-BBN lysine | B1C2CCCC1CCC2.N[C@@H](CCCCN)C(=O)O | InChI=1S/C8H15B.C6H14N2O2/c1-3-7-5-2-6-8(4-1)9-7;7-4-2-1-3-5(8)6(9)10/h7-9H,1-6H2;5H,1-4,7-8H2,(H,9,10)/t;5-/m.0/s1
